* sg13g2-lna -- two-tone transient IIP3 bench (issue #18)
* Generated from
* sim/lna-characterization/testbench/tb_lna_iip3.spice.tmpl by
* sim/lna-characterization/run_lna_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full methodology, FFT parameters and the method's stated
* limits are in sim/lna-characterization/README.md.
*
* Generated for: HBT_SECTION=hbt_typ MOS_SECTION=mos_sf
*                TEMP=27 C VDD=1.62 V
*                per-tone open-circuit source amplitude = 2e-3 V peak
*
* DR-0003 Stage-2 preamble note (issue #33 / PR #40, commit e25df3b): the
* committed DUT instantiates sg13_hv_pmos / sg13_hv_nmos (PSP103.6 via
* OSDI), so this deck loads cornerMOShv.lib's MOS section alongside
* cornerHBT.lib's HBT section and preloads the OSDI models, and sets
* `.options gmin=1e-10` (NOT ngspice-46's 1e-12 default -- the swapped core
* will not converge at the coldest/lowest-rail cells without it) -- see
* tb_lna_sparam.spice.tmpl's header and README.md "gmin and the DR-0003
* core" for the full note and the measured size of that override's effect.
* The two-tone measurement itself is unchanged.
*
* CLAUDE.md: "Linearity is measured honestly: IIP3 via two-tone transient
* with the tone spacing and FFT parameters recorded; state the method's
* limits." Everything that defines this measurement is therefore in the
* deck itself, not only in prose:
*
*   Tones (equal amplitude, both inside the 2400-2483.5 MHz draft band):
*     f1 = 2441406250.0 Hz  (FFT bin 640)
*     f2 = 2449035644.53125 Hz  (FFT bin 642)
*     tone spacing = f2 - f1 = 7629394.53125 Hz
*   Third-order intermodulation products measured (both in-band):
*     2*f1-f2 = 2433776855.46875 Hz (bin 638)
*     2*f2-f1 = 2456665039.0625 Hz (bin 644)
*   Fifth-order products (3*f1-2*f2, 3*f2-2*f1) are measured too, at bins
*   636/646, purely as a "is the IM3 bin really above the
*   numerical floor?" sanity check.
*
*   FFT parameters (chosen so the measurement is COHERENT -- every tone and
*   every product lands exactly on an FFT bin centre, so a rectangular
*   window leaks nothing and no zero-padding is applied):
*     transient step / max step   = 4e-12 s (uniform)
*     settling time discarded     = 1e-6 s before the FFT window
*     FFT record length           = 65536 samples = 2.6214e-07 s
*     bin resolution  df          = 3814697.265625 Hz  (= 1/(N*tstep))
*     window                      = none (rectangular; `set specwindow`)
*     zero padding                = none (N is an exact power of two)
*
* A second, INDEPENDENT coherent-DFT extraction (direct projection of the
* linearized waveform onto cos/sin at each tone/product frequency, over the
* same integer-cycle window) is computed in the same deck and echoed
* alongside the FFT numbers, so the two methods can be compared per point
* rather than trusted on faith.
*
* Port convention: the source is an ideal two-tone Thevenin generator
* behind Rs = 50 Ohm and the load is RL = 50 Ohm -- the same 50 Ohm port
* convention spec/target-spec.md states. Input power is reported as the
* AVAILABLE source power per tone, A^2/(8*Rs); output power per tone and
* per product is V_peak^2/(2*RL). Both are computed by the parser from the
* amplitudes echoed below.
*
* The DUT subcircuit is inlined verbatim from design/netlist/lna.spice --
* see tb_lna_sparam.spice.tmpl's header for the exact transformation.

.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_sf

.options temp=27 tnom=27 gmin=1e-10

* ---------------------------------------------------------------------
* DUT subcircuit, inlined verbatim from design/netlist/lna.spice
* ---------------------------------------------------------------------
** sch_path: /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-33/design/lna.sch
.subckt lna vdd vss rfin rfout

*.iopin vdd
*.iopin vss
*.iopin rfin
*.iopin rfout
XQ2 outn vb2 casc vss npn13G2 Nx=8
XQ1 casc b1 e1 vss npn13G2 Nx=8
Le e1 vss 1n m=1
Lc vdd outn 5n m=1
Cin rfin b1 100p m=1
Cout outn rfout 100p m=1
Cbyp2 vb2 vss 100p m=1
Cvdd vdd vss 100p m=1
R2a vdd vb2 1k m=1
R2b vb2 vss 11k m=1
XMb nc_b nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQb nc_b nc_a nc_e vss npn13G2 Nx=8
Rp nc_e vss 3.4k m=1
XMa nc_a nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQa nc_a nc_a vss vss npn13G2 Nx=1
Rseed vdd nc_a 10meg m=1
XMv vbg nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Rsum vbg cb3 18.4k m=1
XQc cb3 cb3 vss vss npn13G2 Nx=1
XMnp1 gsvo vbg es vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMnp2 dn vl es vss sg13_hv_nmos w=10u l=1u ng=1 m=1
Rtail es vss 9.53k m=1
XMld dn dn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMlm gsvo dn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMref vl gsvo vdd vdd sg13_hv_pmos w=40u l=1u ng=1 m=1
Rl vl vss 26k m=1
XMis bref gsvo vdd vdd sg13_hv_pmos w=512u l=1u ng=1 m=1
R3b bref b1 330 m=1
XQ3 bref bref vss vss npn13G2 Nx=1
Cbref bref vss 100p m=1
.ends

Vdd vdd 0 dc 1.62
* Two tone generators in series form the Thevenin source; Rs = 50 Ohm.
Vt1 vin va dc 0 sin(0 2e-3 2441406250.0 0 0 0)
Vt2 va 0 dc 0 sin(0 2e-3 2449035644.53125 0 0 0)
Rs vin rfin 50
RL rfout 0 50
Xa vdd 0 rfin rfout lna

.control
* PSP103.6 Verilog-A/OSDI models for sg13_hv_pmos / sg13_hv_nmos --
* `pre_osdi` runs before the netlist is parsed, so it precedes everything.
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
set specwindow = none
op
let ic1 = @q.xa.xq1.qnpn13g2[ic]
let ic2 = @q.xa.xq2.qnpn13g2[ic]
let vce1 = v(xa.casc) - v(xa.e1)
let vce2 = v(xa.outn) - v(xa.casc)
let idd = -i(vdd)
echo "OP ic1 $&ic1 ic2 $&ic2 vce1 $&vce1 vce2 $&vce2 idd $&idd"

tran 4e-12 1.26214e-06 1e-6 4e-12
linearize v(rfout) v(vin)
let npts = length(v(rfout))
echo "NPTS $&npts"

* --- independent coherent-DFT extraction (done BEFORE fft, which
* --- replaces the current plot with the spectrum) --------------------
let tv = time
let w1 = 2*PI*2441406250.0
let w2 = 2*PI*2449035644.53125
let w3 = 2*PI*2433776855.46875
let w4 = 2*PI*2456665039.0625
let d1 = 2*sqrt(mean(v(rfout)*cos(w1*tv))^2 + mean(v(rfout)*sin(w1*tv))^2)
let d2 = 2*sqrt(mean(v(rfout)*cos(w2*tv))^2 + mean(v(rfout)*sin(w2*tv))^2)
let d3 = 2*sqrt(mean(v(rfout)*cos(w3*tv))^2 + mean(v(rfout)*sin(w3*tv))^2)
let d4 = 2*sqrt(mean(v(rfout)*cos(w4*tv))^2 + mean(v(rfout)*sin(w4*tv))^2)
let ds = 2*sqrt(mean(v(vin)*cos(w1*tv))^2 + mean(v(vin)*sin(w1*tv))^2)
echo "DFT tone1 $&d1 tone2 $&d2 im3l $&d3 im3h $&d4 src1 $&ds"

* --- FFT extraction (primary) ----------------------------------------
fft v(rfout) v(vin)
let dfbin = frequency[1] - frequency[0]
let a1 = mag(v(rfout)[640])
let a2 = mag(v(rfout)[642])
let a3 = mag(v(rfout)[638])
let a4 = mag(v(rfout)[644])
let a5 = mag(v(rfout)[636])
let a6 = mag(v(rfout)[646])
let s1 = mag(v(vin)[640])
let s2 = mag(v(vin)[642])
echo "FFTDF $&dfbin"
echo "FFT tone1 $&a1 tone2 $&a2 im3l $&a3 im3h $&a4 im5l $&a5 im5h $&a6 src1 $&s1 src2 $&s2"
echo "BENCH_COMPLETE"
.endc
.end
